* /// IP62 Model File ///
* /// models_IP62_res_v5  ///
* /// 2025.08.19 ARAKAWA Natsuki ///

* simulator lang=spectre


*//// RR  ////////////////////////////////////////////////////////////////////////

.subckt F_RR PLUS MINUS SUB
.param w=1u r=1 l=1u tc1=0 tc2=0 tnom=27
.if (w == 4u)

r0 PLUS MINUS
+ r = '(1+0.00105*(temper-tnom)+2.4*10**(-6)*(temper-tnom)**2)*v(PLUS,MINUS)/		
+     (v(PLUS,MINUS)/((((834.54*magRR)*((l*10**6)-9.2)/(4-1.09)+(13.3*(9.2/	
+       (4-1.09)+3.38/(4-1.8))+2.79))+(-21*3.95+615.2)))*				
+     (1+(0.000949*log(4)-0.00559)*(v(SUB)-(v(MINUS)+v(PLUS))/2)+			
+     (-3.2478*10**(-6)*log(4)+5.28*10**(-5))*((v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2))+	
+     (-7.97*10**(-7)*log(4)+3.05*10**(-6))*((v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2))+	
+     (-3*10**(-9)*log(4)+1.2394*10**(-8))*((v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)))/	
+     (1+(-0.09)*abs(v(PLUS,MINUS))/(l*10**6)+0.19*(abs(v(PLUS,MINUS))/		
+     (l*10**6))**3))'

c_d0 PLUS SUB  c='(7.06*(10**-4)*l*(10**6)+6.89*(10**-3))*10**(-12)'
c_d1 MINUS SUB c=0


.elseif (w == 6u)

r0 PLUS MINUS
+ r = '(1+0.00105*(temper-tnom)+2.4*10**(-6)*(temper-tnom)**2)*v(PLUS,MINUS)/		
+     (v(PLUS,MINUS)/((((834.54*magRR)*((l*10**6)-9.2)/(6-1.09)+			
+       (13.3*(9.2/(6-1.09)+3.38/(6-1.8))+2.79))+(-21*4.0+366.4)))*			
+     (1+(0.000639*log(6)-0.00559)*(v(SUB)-(v(MINUS)+v(PLUS))/2)+			
+     (-1.03248*10**(-6)*log(6)+5.28*10**(-5))*((v(SUB)-(v(MINUS)+		
+     v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2))+(-9.9798*10**(-7)*log(6)+4.05*10**(-6))*			
+     ((v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2))+(-3*10**(-9)*log(6)+1.9394*10**(-8))*	
+     ((v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)))/(1+(-0.1)*abs(v(PLUS,MINUS))/(l*10**6)+	
+     0.25*(abs(v(PLUS,MINUS))/(l*10**6))**2+(-0.02)*(abs(v(PLUS,MINUS))/		
+     (l*10**6))**3))'

c_d0 PLUS SUB  c='(8.99*(10**-4)*l*(10**6)+7.98*(10**-3))*10**(-12)' 
c_d1 MINUS SUB c=0


.elseif (w == 12u)

r0 PLUS MINUS
+ r = '(1+0.00105*(temper-tnom)+2.4*10**(-6)*(temper-tnom)**2)*v(PLUS,MINUS)/		
+     (v(PLUS,MINUS)/((((834.54*magRR)*((l*10**6)-9.2)/(12-1.09)+			
+       (13.3*(9.2/(12-1.09)+3.38/(12-1.8))+2.79))+(-21*11.9+368.9)))*		
+     (1+(0.003599*log(12)-0.0129)*(v(SUB)-(v(MINUS)+v(PLUS))/2)+			
+     (1.03248*10**(-5)*log(12)+1.5764*10**(-5))*((v(SUB)-(v(MINUS)+		
+     v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2))+(-9.9788*10**(-7)*log(12)-9.4884*10**(-7))*((v(SUB)-	
+     (v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2))+(2.1996*10**(-8)*log(12)+1.2939*10**(-7))*	+ 
+     ((v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)))/(1+(-0.21)*abs(v(PLUS,MINUS))/		
+     (l*10**6)+0.44*(abs(v(PLUS,MINUS))/(l*10**6))**2+(-0.032)*			
+     (abs(v(PLUS,MINUS))/(l*10**6))**3))'

c_d0 PLUS SUB  c='(1.47*(10**-3)*l*(10**6)+1.31*(10**-2))*10**(-12)'
c_d1 MINUS SUB c=0


.elseif (w == 20u)

r0 PLUS MINUS
+ r = '(1+0.00105*(temper-tnom)+2.4*10**(-6)*(temper-tnom)**2)*v(PLUS,MINUS)/		
+     (v(PLUS,MINUS)/((((834.54*magRR)*((l*10**6)-9.2)/(20-1.09)+			
+       (13.3*(9.2/(20-1.09)+3.38/(20-1.8))+2.79))+(-21*20.1+495.8)))*		
+     (1+(0.003499*log(20)-0.01299)*(v(SUB)-(v(MINUS)+v(PLUS))/2)+		
+     (1.73248*10**(-5)*log(20)+4.5764*10**(-5))*((v(SUB)-(v(MINUS)+		
+     v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2))+(-2.09788*10**(-6)*log(20)-8.4884*10**(-7))*((v(SUB)-	
+     (v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2))+(1.996*10**(-8)*log(20)+5.9395*10**(-8))*		
+     ((v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)))/(1+(-0.15)*abs(v(PLUS,MINUS))/		
+     (l*10**6)+0.46*(abs(v(PLUS,MINUS))/(l*10**6))**2+(-0.02)*			
+     (abs(v(PLUS,MINUS))/(l*10**6))**3))'

c_d0 PLUS SUB  c='(2.19*(10**-3)*l*(10**6)+2.19*(10**-2))*10**(-12)'
c_d1 MINUS SUB c=0 


.elseif (w == 2.8u)

r0 PLUS MINUS
+ r = '(1+0.00105*(temper-tnom)+2.7*10**(-6)*(temper-tnom)**2)*v(PLUS,MINUS)/		
+     (v(PLUS,MINUS)/((-0.1716*((l*10**6)**2)+486.5*(l*10**6)-3605.5)*		
+     (1+(0.007099*log(2.8)-0.01299)*(v(SUB)-(v(MINUS)+v(PLUS))/2)+		
+     (3.73248*10**(-5)*log(2.8)+4.0764*10**(-5))*((v(SUB)-(v(MINUS)+		
+     v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2))+(-1.09788*10**(-6)*log(2.8)-8.4884*10**(-7))*((v(SUB)-	
+     (v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2))+(1.90976*10**(-8)*log(2.8)+1.0839*10**(-7))*	
+     ((v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)*(v(SUB)-(v(MINUS)+v(PLUS))/2)))/(1+(-0.17)*abs(v(PLUS,MINUS))/		
+     (l*10**6)+0.19*(abs(v(PLUS,MINUS))/(l*10**6))**2+(-0.011)*			
+     (abs(v(PLUS,MINUS))/(l*10**6))**3)))'

c_d0 PLUS SUB  c='(5.96*(10**-4)*l*(10**6)+8.07*(10**-3))*10**(-12)'
c_d1 MINUS SUB c=0 
.endif

.ends F_RR



* //// RS  ////////////////////////////////////////////////////////////////////////

.subckt F_RS_BASE PLUS MINUS
.param w=1u r=1 l=1u tnom=27
.if (w == 4u)

r PLUS MINUS 
+ r = 'v(PLUS,MINUS)/(v(PLUS,MINUS)/((((95.0*magRS)*(l*10**6)/4+(2.79+		
+     (705.9*4**(-1.298))))))/(1+(-0.0112)*abs(v(PLUS,MINUS))/(l*10**6)-0.229*	
+     (abs(v(PLUS,MINUS))/(l*10**6))**2+(1.99)*(abs(v(PLUS,MINUS))/		
+     (l*10**6))**3))'
.endif

.if (w == 6u)

r PLUS MINUS
+ r = 'v(PLUS,MINUS)/(v(PLUS,MINUS)/((((95.0*magRS)*(l*10**6)/6+(2.79+		
+     (707.5*6**(-1.35))))))/(1+(-0.148)*abs(v(PLUS,MINUS))/(l*10**6)+1.41*	
+     (abs(v(PLUS,MINUS))/(l*10**6))**2+(-0.56)*(abs(v(PLUS,MINUS))/		
+     (l*10**6))**3))'
.endif

.if (w == 12u)

r PLUS MINUS
+ r = 'v(PLUS,MINUS)/(v(PLUS,MINUS)/((((95.0*magRS)*(l*10**6)/12+(2.79+		
+     (707.5*12**(-2))+(361/(l*10**6)))))/(1+(-0.156)*abs(v(PLUS,MINUS))/		
+     (l*10**6)+1.96*(abs(v(PLUS,MINUS))/(l*10**6))**2+(-0.68)*			
+     (abs(v(PLUS,MINUS))/(l*10**6))**3)))'
.endif

.if (w == 20u)

r PLUS MINUS
+ r = 'v(PLUS,MINUS)/(v(PLUS,MINUS)/((((95.0*magRS)*(l*10**6)/20+(2.79+		
+     (701.9*20**(-1.224))))))/(1+(-0.26)*abs(v(PLUS,MINUS))/(l*10**6)+		
+     2.05*(abs(v(PLUS,MINUS))/(l*10**6))**2+(-0.5)*(abs(v(PLUS,MINUS))/		
+     (l*10**6))**3))'
.endif

.ends F_RS_BASE




* OS00 Manual 00 calibration overlay.
* The original F_RS equations above are retained as F_RS_BASE.  The public
* F_RS name is calibrated without modifying models_IP62_res_v5.lib.
* Fit basis: digitized OS00 rev1.1 p.16 RS R(T), L=50um W=4um,
* V=0.2V.  The plotted data are approximate; keep this as engineering-only.
.subckt F_RS PLUS MINUS
.param w=1u l=1u tnom=27
* Relative correction to the original F_RS resistance.
* k(27C)=1.05194; dk/dT=-1.65704e-4/C; d2k/dT2=2.86822e-7/C2.
.param k_os00 = '1.0519396292 - 1.657041662e-4*(temper-27) + 2.868216534e-7*(temper-27)**2'
XBASE PLUS N_OS00_RS F_RS_BASE w=w l=l
E_OS00 N_OS00_RS MINUS VALUE = '(k_os00-1)*v(PLUS,N_OS00_RS)'
.ends F_RS
